US06248765B1
3-(1H-Imidazol-4-yl)propyl 4-(2-(trimethylsilyl)-1-ethynyl)phenyl ether
5 mmol of 4-(3-hydroxypropyl)-1H-imidazole-1-carboxylic acid tert-butyl ester and 5 mmol of 4-(2-(trimethylsilyl)-1-ethynyl)phenol (for the preparation see the literature mentioned in Example 122) are treated as described in Example 122.

reactant | 4-(3-hydroxypropyl)-1H-imidazole-1-carboxylic acid tert-butyl ester | 5 mmol | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCCO | C11H18N2O3
reactant | 4-(2-(trimethylsilyl)-1-ethynyl)phenol | 5 mmol | C[Si](C#CC1=CC=C(C=C1)O)(C)C | C11H14OSi
product | 3-(1H-Imidazol-4-yl)propyl 4-(2-(trimethylsilyl)-1-ethynyl)phenyl ether | C[Si](C#CC1=CC=C(C=C1)OCCCC=1N=CNC1)(C)C | C17H22N2OSi
